// Generated for: spectre (Apr 19 14:37:09 2013 )
// Library name: gsclib045_lvt
// Cell name: OAI21X1
// View name: schematic

simulator lang=spectre

subckt OAI21X1 A0 A1 B0 Y VDD VSS
mp0 (n1 A0 VDD VDD) g45p1lvt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp2 (Y B0 VDD VDD) g45p1lvt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp1 (Y A1 n1 VDD) g45p1lvt w=(390n) l=45n nf=1 as=54.6f ad=54.6f ps=1.06u \
        pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n sd=160n \
        sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mn2 (Y B0 n0 VSS) g45n1lvt w=(260n) l=45n nf=1 as=36.4f ad=36.4f ps=800n \
        pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn1 (n0 A1 VSS VSS) g45n1lvt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn0 (n0 A0 VSS VSS) g45n1lvt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
ends OAI21X1
// End of subcircuit definition.

