// Generated for: spectre (Apr 19 14:37:10 2013 )
// Library name: gsclib045_lvt
// Cell name: OAI21X2
// View name: schematic

simulator lang=spectre

subckt OAI21X2 A0 A1 B0 Y VSS VDD
mp0 (n1 A0 VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp2 (Y B0 VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp1 (Y A1 n1 VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mn2 (Y B0 n0 VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f ps=1.32u \
        pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n sd=160n \
        sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mn1 (n0 A1 VSS VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mn0 (n0 A0 VSS VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
ends OAI21X2
// End of subcircuit definition.

