// Generated for: spectre (Apr 19 14:37:59 2013 )
// Library name: gsclib045_lvt
// Cell name: OR3X4
// View name: schematic

simulator lang=spectre

subckt OR3X4 A B C Y VDD VSS
mp3 (Y n0 VDD VDD) g45p1lvt w=(1.56u) l=45n nf=1 as=218.4f ad=218.4f \
        ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n sb=140n sd=160n \
        sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp1 (n2 B n1 VDD) g45p1lvt w=(390n) l=45n nf=1 as=54.6f ad=54.6f ps=1.06u \
        pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n sd=160n \
        sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp2 (n0 C n2 VDD) g45p1lvt w=(390n) l=45n nf=1 as=54.6f ad=54.6f ps=1.06u \
        pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n sd=160n \
        sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp0 (n1 A VDD VDD) g45p1lvt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mn3 (Y n0 VSS VSS) g45n1lvt w=(1.04u) l=45n nf=1 as=145.6f ad=145.6f \
        ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n sb=140n \
        sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn0 (n0 A VSS VSS) g45n1lvt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn1 (n0 B VSS VSS) g45n1lvt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn2 (n0 C VSS VSS) g45n1lvt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
ends OR3X4
// End of subcircuit definition.

